US06319920B1
A solution of potassium cyanate (9 mg) in water (0.5 ml) was added to a solution of N-[2-(3-aminophenyl)-1-methylethyl]-N-propyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine (40 mg) in water (2 ml) and acetic acid (1 ml). The mixture was stirred at ambient temperature for about 72 hours and then basified to pH 9 with 10% sodium hydroxide. The solution was extracted with dichloromethane, and the organic phase dried over sodium sulfate, filtered, evaporated in vacuo to give N-[2-(3-carbamoylaminophenyl)-1-methylethyl]-N-propyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine (35 mg), M+H 411.2

reactant | potassium cyanate | 9 mg | [O-]C#N.[K+]
reactant | N-[2-(3-aminophenyl)-1-methylethyl]-N-propyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine | 40 mg | NC=1C=C(C=CC1)CC(C)N(CCC)CC1CCN(CC1)S(=O)(=O)C | C19H33N3O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 0.5 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N-[2-(3-carbamoylaminophenyl)-1-methylethyl]-N-propyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine | 35 mg | C(N)(=O)NC=1C=C(C=CC1)CC(C)N(CCC)CC1CCN(CC1)S(=O)(=O)C | C20H34N4O3S
